US04504305
EXAMPLE 14: 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(4-methoxycarbonylphenyl)-2-cyclohexen-1-one
Into 20 ml of methanol was dissolved 2.5 g of 3-hydroxy-5-(4-methoxycarbonylphenyl)-2-propionyl-2-cyclohexen-1-one and to the solution was added 0.7 g of ethoxyamine. The mixture was kept for 15 hours at room temperature and it was poured into ice water. The crystal sedimented was collected with a filtering step and recrystallized with mixture solvent of methanol-water. Thus, 1.9 g of the desired compound which was in the form of colorless crystals having a melting point of 75°-76° C. was obtained.

reactant | 3-hydroxy-5-(4-methoxycarbonylphenyl)-2-propionyl-2-cyclohexen-1-one | 2.5 g | OC1=C(C(CC(C1)C1=CC=C(C=C1)C(=O)OC)=O)C(CC)=O | C17H18O5
reactant | ethoxyamine | 0.7 g | C(C)ON | C2H7NO
solvent | methanol | 20 ml | CO | CH4O
product | 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(4-methoxycarbonylphenyl)-2-cyclohexen-1-one | C(C)ON=C(CC)C=1C(CC(CC1O)C1=CC=C(C=C1)C(=O)OC)=O | C19H23NO5
